US06057315
6,8-Dihydroxy-7-propyl-9H-pyrrolo[2,1-b][1,3]benzoxazin-9-one
A solution of 60 mg (0.18 mmol) of 2-chloro-6,8-dihydroxy-7-propyl-9H-pyrrolo [2,1-b][1,3]benzoxazin-9-one in 4 mL of methanol was subjected to hydrogenation with 0.1 g Ra-Ni, 0.4 mL of 0.5N KOH in methanol, and H2 at 20 psi. The mixture was diluted with ethyl acetate and extracted with 1N HCl. The organic layer was dried (Na2SO4), concentrated, and the residue purified by preparative TLC (Silica Gel: CH2C2) to give 17 mg of the title compound: mp 170-171° C.

reactant | 2-chloro-6,8-dihydroxy-7-propyl-9H-pyrrolo [2,1-b][1,3]benzoxazin-9-one | 0.18 mmol, 60 mg | ClC=1C=C2OC3=C(C(N2C1)=O)C(=C(C(=C3)O)CCC)O | C14H12ClNO4
reactant | KOH | 0.5N, 0.4 mL | [OH-].[K+]
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Ra-Ni | 0.1 g | [Ni] | Ni
product | 6,8-Dihydroxy-7-propyl-9H-pyrrolo[2,1-b][1,3]benzoxazin-9-one | 17 mg | OC1=CC2=C(C(N3C(O2)=CC=C3)=O)C(=C1CCC)O | C14H13NO4
